US07935699B2
In a flask containing N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionamide (138 mg, 0.25 mmol) was added ethanol (6 ml) and concentrated hydrochloric acid (5 drops) and was stirred at 25° C. for 2 h. The reaction was then concentrated in vacuo to remove the ethanol, diluted with ethyl acetate (50 ml) and washed with a saturated aqueous sodium bicarbonate solution. The organic layer was then dried over magnesium sulfate, filtered and concentrated in vacuo. Purification on an AnaLogix Intelliflash system (12 g column, 5% methanol/ethyl acetate) afforded 2-(3-chloro-4-methanesulfonyl-phenyl)-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-3-(tetrahydro-furan-3-yl)-propionamide (76 mg, 69%) as an off-white solid: 1H NMR (300 MHz, DMSO-d6) δ ppm 1.45-1.57 (m, 1H, CH of CH2), 1.68-1.84 (m, 1H, CH of CH2), 1.88-2.02 (m, 2 H, 2×CH of 2×CH2), 2.06-2.22 (m, 1H, CH), 3.22-3.30 (m, 1H, OCH of OCH2), 3.31 (s, 3H, SO2CH3), 3.53-3.77 (m, 5H, ArCH, SiOCH2, and 2×OCH of 2×OCH2), 3.83-3.93 (m, 1H, OCH of OCH2), 3.97-4.02 (m, 2H, NCH2), 4.82 (t, J=5.4 Hz, 1H, OH), 6.42 (d, J=2.2 Hz, 1H, Ar), 7.54 (d, J=2.2 Hz, 1H, Ar), 7.60 (2×dd, Jo=8.3 Hz, Jm=1.7 Hz, 1H, Ar), 7.71, 7.72 (2×d, Jm=1.7 Hz, 1H, Ar), 8.01 (d, Jo=8.3 Hz, 1H, Ar), 10.81, 10.82 (2×s, 1H, NH).

reactant | N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionamide | 0.25 mmol, 138 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1)NC(C(CC1COCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O)(C)C | C25H38ClN3O5SSi
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-3-(tetrahydro-furan-3-yl)-propionamide | 76 mg, 69% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NN(C=C1)CCO)CC1COCC1 | C19H24ClN3O5S
